US07132551B2
1-(1-Benzo[1,3]dioxol-5-yl-cyclobutyl)-2-[3-(4-trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethanone (15 mg) was dissolved in 2 mL of dry methanol and solid sodium borohydride (10 equiv.) was added in portions. Water (5 mL) was added and the mixture was extracted with ether and the ether extracts were concentrated in vacuo and purified on silica gel to give the desired 1-(1-benzo[1,3]dioxol-5-yl-cyclobutyl)-2-[3-(4-trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethanol (10 mg, 66%). Data for this mixture of diastereomeric amino alcohols: MS 478 (M+1); 1H NMR (300 MHz, CDCl3) partial: δ 6.7–7.8 (m, 7H), 3.85–3.95 (m, 2H, methylene adjacent to aryl ether), the δ 3.1 singlet for the starting material was absent.

reactant | 1-(1-Benzo[1,3]dioxol-5-yl-cyclobutyl)-2-[3-(4-trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethanone | 15 mg | O1COC2=C1C=CC(=C2)C2(CCC2)C(CN2CC(CCC2)COC2=CC=C(C=C2)C(F)(F)F)=O | C26H28F3NO4
reactant | sodium borohydride | 10 equiv. | [BH4-].[Na+]
reactant | Water | 5 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 1-(1-benzo[1,3]dioxol-5-yl-cyclobutyl)-2-[3-(4-trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethanol | 10 mg, 66% | O1COC2=C1C=CC(=C2)C2(CCC2)C(CN2CC(CCC2)COC2=CC=C(C=C2)C(F)(F)F)O | C26H30F3NO4
